US04613617
A solution of 1.009 (3.99 mmol) of 2-(2'-chlorophenyl)-5,5-dimethyl-1,3-cyclohexanedione and 0.03 g (8.0 mmol) of pyridine was cooled in an ice bath and stirred under N2. The 2-ethylhexanoyl chloride (0.69 g, 4.25 mmol) was added, the mixture was then allowed to warm to room temperature, stirred at room temperature for one hour and refluxed for one hour. The solvent was removed under reduced pressure and the residue taken up in ether and water. The ether was washed three times with 0.25N NaOH, three times with 10% HCl and with water. The ether was dried over anhydrous MgSO4 and decanted to give 1.23 g (82%) of 3-(2'-ethylhexanoyloxy)-2-(2'-chlorophenyl)-5,5-dimethyl-2-cyclohexenone as a clear colorless oil which was homogeneous by thin layer chromatography.

reactant | 2-(2'-chlorophenyl)-5,5-dimethyl-1,3-cyclohexanedione | ClC1=C(C=CC=C1)C1C(CC(CC1=O)(C)C)=O | C14H15ClO2
reactant | pyridine | 8.0 mmol, 0.03 g | N1=CC=CC=C1 | C5H5N
reactant | 2-ethylhexanoyl chloride | 4.25 mmol, 0.69 g | C(C)C(C(=O)Cl)CCCC | C8H15ClO
product | 3-(2'-ethylhexanoyloxy)-2-(2'-chlorophenyl)-5,5-dimethyl-2-cyclohexenone | 1.23 g, 82% | C(C)C(C(=O)OC1=C(C(CC(C1)(C)C)=O)C1=C(C=CC=C1)Cl)CCCC | C22H29ClO3
